US07795236B2
8-(4′-Methylbiphenyl-4-ylmethylamino)adenosine
To a mixture of 8-(4-bromobenzylamino)adenosine (0.050 g), 4-methylphenylboronic acid (0.017 g), sodium carbonate (0.024 g), water (0.4 mL) and ethanol (2.2 mL) was added tetrakis-(triphenylphosphine)palladium(0) (0.006 g), and the resulting mixture was stirred under reflux for 22 hours. The reaction mixture was cooled to room temperature. After addition of dichloromethane/methanol (5/1, 35 mL), the insoluble material was filtered out. The filtrate was concentrated under reduced pressure. The residue was purified by preparative reverse phase column chromatography (Shiseido CAPCELL PAK C18MG80, 5 μm, 20×50 mm, flow rate 30 mL/minutes linear gradient, eluent: water/methanol=70/30-10/90) to give the title compound (0.022 g).

reactant | 8-(4-bromobenzylamino)adenosine | 0.050 g | BrC1=CC=C(CNC=2N([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C=3N=CN=C(C3N2)N)C=C1 | C17H19BrN6O4
reactant | 4-methylphenylboronic acid | 0.017 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | 0.024 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.4 mL | O | H2O
solvent | diethylether ethylacetate | 35 mL | C(C)OCC.C(C)OC(C)=O
solvent | ethanol | 2.2 mL | C(C)O | C2H6O
product | 8-(4′-Methylbiphenyl-4-ylmethylamino)adenosine | 0.022 g | CC1=CC=C(C=C1)C1=CC=C(C=C1)CNC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C24H26N6O4
